US08486952B2
To a solution of 2,4-dichloro-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine (170 mg, 0.641 mmol) in NMP (2 mL) was added cyclopropanamine (110 mg, 1.924 mmol) dropwise. The mixture was stirred at RT for 3 hours. 8 mL of water was added to precipitate out the product. The solid was filtered out and air-dried to give a crude 2-chloro-N-cyclopropyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (175 mg, 0.612 mmol, 96% yield), which was used for the next step without any purification. LC-MS (M+H)+=286.1

reactant | 2,4-dichloro-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 0.641 mmol, 170 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=CC=C2)Cl | C13H10Cl2N2
reactant | cyclopropanamine | 1.924 mmol, 110 mg | C1(CC1)N | C3H7N
reactant | water | 8 mL | O | H2O
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | 2-chloro-N-cyclopropyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | 0.612 mmol, 175 mg, 96% yield | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=CC=C2)NC2CC2 | C16H16ClN3
